US07741324B2
Cyclobutanecarboxylic acid [(3-benzyloxy-phenyl)-(5-oxo-4,5-dihydro-[1,2,4]triazin-6-yl)-methyl]-amide (Compound of Formula III where R1=cyclobutyl and Q1=Ph-(3-OBn)) was prepared as follows:
To a solution of cyclobutanecarboxylic acid [(4-amino-5-oxo-4,5-dihydro-[1,2,4]triazin-6-yl)-(3-benzyloxy-phenyl)-methyl]-amide (315 mg, 0.777 mmol) and concentrated HCl (344 μL) in anhydrous EtOH (16 mL) was dropwise added a solution of sodium nitrite (120 mg, 1.72 mmol) in H2O (4 mL) at 0° C. and stirred for 30 min and warmed to rt for an additional 1.5 h. The reaction mixture was concentrated in vacuo and the crude material was chromatographed on silica gel [eluting with 3% MeOH in CHCl3] to obtain the title compound as an off-white foam solid. 1H NMR (CDCl3, 400 MHz) δ 1.78-1.93 (m, 1H), 1.93-2.04 (m, 1H), 2.12-2.2.36 (m, 4H), 3.13 (quint, J=8.4 Hz, 1H), 4.97 (s, 2H), 6.35 (d, J=8.8 Hz, 1H), 6.85 (dd, J=2.4, 8.4 Hz, 1H), 6.96-7.05 (m, 2H), 7.20 (t, J=8.0 Hz, 1H), 7.27-7.41 (m, 4H), 7.61 (brs, 1H), 8.46 (s, 1H); MS (ES+): m/z 391.04 (100) [MH+]; HPLC: tR=2.87 min (MicromassZQ, polar—5 min).

reactant | cyclobutanecarboxylic acid [(4-amino-5-oxo-4,5-dihydro-[1,2,4]triazin-6-yl)-(3-benzyloxy-phenyl)-methyl]-amide | 0.777 mmol, 315 mg | NN1C=NN=C(C1=O)C(C1=CC(=CC=C1)OCC1=CC=CC=C1)NC(=O)C1CCC1 | C22H23N5O3
reactant | HCl | 344 μL | Cl | ClH
reactant | sodium nitrite | 1.72 mmol, 120 mg | N(=O)[O-].[Na+]
solvent | EtOH | 16 mL | CCO | C2H6O
solvent | H2O | 4 mL | O | H2O
product | Cyclobutanecarboxylic acid [(3-benzyloxy-phenyl)-(5-oxo-4,5-dihydro-[1,2,4]triazin-6-yl)-methyl]-amide | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(C=1C(NC=NN1)=O)NC(=O)C1CCC1 | C22H22N4O3
